US05183921
To E-2-hydroxyimino-N-methyl-2-(2-phenoxyphenyl)acetamide (10.00 g, 0.037 mole) were added acetone (200 ml), potassium carbonate (15.34 g, 0.111 moles) and dimethylsulfate (9.33 g, 0.074 moles) and the mixture was stirred at room temperature for 9 hours. After completion of the reaction, the reaction mixture was filtered, washed with acetone and concentrated under reduced pressure. The oil thus obtained was dissolved in toluene (50 ml) and to this was added an aqueous 1N sodium hydroxide solution (50 ml), followed by stirring at room temperature for 30 minutes. The mixture was extracted with toluene, washed with water and concentrated, and then the resulting residue was recrystallized (methanol/water) to obtain E-2-methoxyimino-N-methyl-2-(2-phenoxyphenyl)acetamide (9.93 g, yield: 94.4%) as colorless crystals (melting point: 81.5°-83° C.).

reactant | E-2-hydroxyimino-N-methyl-2-(2-phenoxyphenyl)acetamide | 0.037 mole, 10.00 g | O\N=C(\C(=O)NC)/C1=C(C=CC=C1)OC1=CC=CC=C1 | C15H14N2O3
reactant | potassium carbonate | 0.111 moles, 15.34 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfate | 0.074 moles, 9.33 g | COS(=O)(=O)OC | C2H6O4S
reactant | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | E-2-methoxyimino-N-methyl-2-(2-phenoxyphenyl)acetamide | 9.93 g, yield: 94.4% | CO\N=C(\C(=O)NC)/C1=C(C=CC=C1)OC1=CC=CC=C1 | C16H16N2O3
